US05834506
4-Hydroxy-6-(3-methyl-butyl)-6-phenethyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 5 using 2.56 g (22 mmol) of methyl acetoacetate, 0.97 g (24.2 mmol) of NaH 60% dispersion in oil, 14.4 mL (23.1 mmol) of 1.6M n-butyl lithium in hexane, 4.5 g (22.0 mmol) of 6-methyl-1-phenyl-heptan-3-one (A. Katritzky, et al., J. Org. Chem., 1995, 60 (23), 7605) and 60 mL of THF. After addition of the ketone, the reaction was stirred for 90 minutes at 0° C. and then for 30 minutes at room temperature. Water (400 mL) was slowly added with vigorous stirring, and the reaction was allowed to stir overnight. The reaction was worked up as in General Method 6. The product was triturated from ether to afford a solid, m.p. 99°-100.5° C. 1H NMR (CDCl3) δ 0.89-0.92 (d,d, 6 H), 1.24-1.32 (m, 2 H), 1.48-1.57 (m, 1 H), 1.64-1.83 (m, 2 H), 1.94-2.03 (m, 2 H), 2.68-2.77 (m, s, 4 H), 3.42 (s, 2 H), 7.16-7.32 (m, 5 H).

reactant | methyl acetoacetate | 22 mmol, 2.56 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 24.2 mmol, 0.97 g | [H-].[Na+]
reactant | n-butyl lithium | 23.1 mmol, 1.6M, 14.4 mL | C(CCC)[Li]
reactant | 6-methyl-1-phenyl-heptan-3-one | 22.0 mmol, 4.5 g | CC(CCC(CCC1=CC=CC=C1)=O)C | C14H20O
solvent | hexane | CCCCCC | C6H14
solvent | Water | 400 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-(3-methyl-butyl)-6-phenethyl-5,6-dihydro-pyran-2-one | OC1=CC(OC(C1)(CCC1=CC=CC=C1)CCC(C)C)=O | C18H24O3
